*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-G111  
*  
* Parameters derived from information available in data sheet.  
*  
*                 cathode-e-1
*                 |  cathode-d-1
*                 |  |  cathode-c-1
*                 |  |  |  cathode-DP-1
*                 |  |  |  |  cathode-e-2
*                 |  |  |  |  |  cathode-d-2
*                 |  |  |  |  |  |  cathode-g-2
*                 |  |  |  |  |  |  |  cathode-c-2
*                 |  |  |  |  |  |  |  |  cathode-DP-2
*                 |  |  |  |  |  |  |  |  |  cathode-b-2
*                 |  |  |  |  |  |  |  |  |  |  cathode-a-2
*                 |  |  |  |  |  |  |  |  |  |  |  cathode-f-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  common-anode-2
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  common-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-b-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-a-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-g-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  cathode-f-1
*                 |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_G111 1  2  3  4  5  6  7  8  9  10 11 12 13 14 15 16 17 18

DA1  14  16  dHDSP_G111
DB1  14  15  dHDSP_G111
DC1  14   3  dHDSP_G111
DD1  14   2  dHDSP_G111
DE1  14   1  dHDSP_G111
DF1  14  18  dHDSP_G111
DG1  14  17  dHDSP_G111
DDP1 14   4  dHDSP_G111

DA2  13  11  dHDSP_G111
DB2  13  10  dHDSP_G111
DC2  13   8  dHDSP_G111
DD2  13   6  dHDSP_G111
DE2  13   5  dHDSP_G111
DF2  13  12  dHDSP_G111
DG2  13   7  dHDSP_G111
DDP2 13   9  dHDSP_G111

.MODEL dHDSP_G111 D
+ (  
+    IS  = 2.08276754E-16 
+     N  = 2.17799178 
+    RS  = 0.50892350
+    BV  = 14.25
+   IBV  = 100u
+ )  

.ENDS HDSP_G111